US08980911B2
Step j: Synthesis of N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropane carboxamide
A mixture of N-[1-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide (65 mg, 0.16 mmol), potassium carbonate, methanol and water was stirred at room temperature for 20 minutes. Methanol was removed under vacuum. The residue was stirred in water for 30 minutes. The precipitated solid was filtered and dried to 47 mg (90%) N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropane carboxamide.

reactant | N-[1-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]-N-(2,4,4-trimethylpentan-2-yl)cyclopropanecarboxamide | 0.16 mmol, 65 mg | C1(CC1)C(=O)N1C=CC=2C=NC(=CC21)N(C(=O)C2CC2)C(C)(CC(C)(C)C)C | C23H31N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | N-(1H-pyrrolo[3,2-c]pyridin-6-yl)-N-(2,4,4-trimethylpentan-2-yl)cyclopropane carboxamide | N1C=CC=2C=NC(=CC21)N(C(=O)C2CC2)C(C)(CC(C)(C)C)C | C19H27N3O
